US08008298B2
A solution of 2,2-dimethyl-1-[2-(3,4,5-trimethoxy-phenyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-pent-4-en-1-one (0.127 g, 0.242 mmol) in 4 mL of dichloromethane and 1 mL of trifluoroacetic acid was stirred for 3 h, then concentrated. The residue was taken up in 2 mL of ethanol (not all dissolves) and treated with sodium acetate trihydrate (0.329 g, 2.42 mmol). The mixture was stirred for 4 d, then concentrated to a residue. Column chromatography (0→5% MeOH/CH2Cl2) afforded 0.048 g (50%) of 2,2-dimethyl-1-[2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-pent-4-en-1-one as a white solid.

reactant | 2,2-dimethyl-1-[2-(3,4,5-trimethoxy-phenyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-pent-4-en-1-one | 0.242 mmol, 0.127 g | CC(C(=O)C1=CN(C2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC)COCC[Si](C)(C)C)(CC=C)C | C28H39N3O5Si
reactant | sodium acetate trihydrate | 2.42 mmol, 0.329 g | O.O.O.C(C)(=O)[O-].[Na+]
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2,2-dimethyl-1-[2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-pent-4-en-1-one | 0.048 g, 50% | CC(C(=O)C1=CNC2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC)(CC=C)C | C22H25N3O4
